US07714009B2
4-Bromo-7-dipropylamino-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 7-dipropylamino-1-methyl-1,3-dihydro-2H-benzimidazol-2-one (200 mg, 0.809 mmol), N-bromosuccinimide (216 mg, 1.21 mmol) and catalytic amount of benzoylperoxide in carbon tetrachloride (20 ml) was refluxed for 60 h and diluted with water. The aqueous solution was extracted with dichloromethane. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography eluting 30% ethyl acetate/n-hexane to afford 73 mg (28%) of the title compound.

reactant | 7-dipropylamino-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 0.809 mmol, 200 mg | C(CC)N(C1=CC=CC2=C1N(C(N2)=O)C)CCC | C14H21N3O
reactant | N-bromosuccinimide | 1.21 mmol, 216 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | 4-Bromo-7-dipropylamino-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 73 mg, 28% | BrC1=CC=C(C=2N(C(NC21)=O)C)N(CCC)CCC | C14H20BrN3O
